### PR TITLE
[Merged by Bors] - feat: characterize level sets of the order for analytic/meromorphic functions

### PR DESCRIPTION
**Pull request by kebekus**
Establish that sets where the order of analytic/meromorphic function takes values other than infinity and zero are codiscrete within the domains of analyticity/meromorphicity. Uniformize API between analytic and meromorphic functions. Fix typo in docstrings.

This material is used in [Project VD](https://github.com/kebekus/ProjectVD), which aims to formalize Value Distribution Theory for meromorphic functions on the complex plane. It will be used in the definition of a divisor attached to a meromorphic function.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Analytic/Order.lean [hunk 1]
```diff
@@ -192,4 +185,60 @@ theorem isClopen_setOf_order_eq_top (h₁f : AnalyticOnNhd 𝕜 f U) :
...
+      have : u ∉ (∅ : Set U) := by exact fun a => a
+      rw [← h] at this
+      tauto
+    · obtain ⟨u, hU⟩ := h₂f
+      have : u ∈ univ := by trivial
+      rw [← h] at this
+      tauto
+  · intro h₂f
+    obtain ⟨v, hv⟩ := hU.nonempty
+    use ⟨v, hv⟩, h₂f ⟨v, hv⟩
```
Comment (jcommelin) [inline Mathlib/Analysis/Analytic/Order.lean:206]:
```suggestion
  have : ConnectedSpace U := Subtype.connectedSpace hU
  obtain ⟨v⟩ : Nonempty U := inferInstance
  suffices (∀ (u : U), (hf u u.2).order ≠ ⊤) ∨ ∀ (u : U), (hf u u.2).order = ⊤ by tauto
  simpa [Set.eq_empty_iff_forall_not_mem, Set.eq_univ_iff_forall] using
      isClopen_iff.1 hf.isClopen_setOf_order_eq_top
```

File: Mathlib/Analysis/Analytic/Order.lean [hunk 2]
```diff
@@ -192,4 +185,60 @@ theorem isClopen_setOf_order_eq_top (h₁f : AnalyticOnNhd 𝕜 f U) :
...
+    · have : (hf a h₁a).order = ⊤ := by rwa [(hf a h₁a).order_eq_top_iff]
+      tauto
+  · filter_upwards [h₁f]
+    intro a h₁a
+    simp only [Set.mem_compl_iff, Set.mem_diff, Set.mem_image, Set.mem_setOf_eq, Subtype.exists,
+      exists_and_right, exists_eq_right, not_exists, not_or, not_and, not_forall, Decidable.not_not]
+    intro h₂a
+    use h₂a
+    rw [(hf a h₂a).order_eq_zero_iff.2 h₁a]
+    tauto
```
Comment (jcommelin) [inline Mathlib/Analysis/Analytic/Order.lean:242]:
```suggestion
  · filter_upwards [eventually_nhdsWithin_of_eventually_nhds h₁f.eventually_nhds] with a ha
    simp +contextual [(hf a _).order_eq_top_iff, ha]
  · filter_upwards [h₁f] with a ha
    simp +contextual [(hf a _).order_eq_zero_iff, ha]
```

File: Mathlib/Analysis/Meromorphic/Order.lean [hunk 3]
```diff
@@ -229,4 +220,37 @@ theorem order_ne_top_of_isPreconnected {x y : 𝕜} (hU : IsPreconnected U) (h
...
+        exact ⟨h₂t.sdiff isClosed_singleton, Set.mem_diff_of_mem h₃t h₃a⟩
+      tauto
+  · filter_upwards [(hf x hx).eventually_analyticAt, h₁f]
+    intro a h₁a h₂a
+    simp only [Set.mem_compl_iff, Set.mem_diff, Set.mem_image, Set.mem_setOf_eq, Subtype.exists,
+      exists_and_right, exists_eq_right, not_exists, not_or, not_and, not_forall, Decidable.not_not]
+    intro h₃a
+    use h₃a
+    rw [h₁a.meromorphicAt_order, h₁a.order_eq_zero_iff.2 h₂a]
+    tauto
```
Comment (jcommelin) [inline Mathlib/Analysis/Meromorphic/Order.lean:254]:
```suggestion
  · filter_upwards [eventually_eventually_nhdsWithin.2 h₁f] with a h₁a
    suffices ∀ᶠ (z : 𝕜) in 𝓝[≠] a, f z = 0 by
      simp +contextual [(hf a _).order_eq_top_iff, h₁a, this]
    obtain rfl | hax := eq_or_ne a x
    · exact h₁a
    rw [eventually_nhdsWithin_iff, eventually_nhds_iff] at h₁a ⊢
    obtain ⟨t, h₁t, h₂t, h₃t⟩ := h₁a
    use t \ {x}, fun y h₁y _ ↦ h₁t y h₁y.1 h₁y.2
    exact ⟨h₂t.sdiff isClosed_singleton, Set.mem_diff_of_mem h₃t hax⟩
  · filter_upwards [(hf x hx).eventually_analyticAt, h₁f] with a h₁a
    simp +contextual [h₁a.meromorphicAt_order, h₁a.order_eq_zero_iff.2]
```

File: Mathlib/Analysis/Analytic/Order.lean (hunk 1 above)
Comment (kebekus) [reply Mathlib/Analysis/Analytic/Order.lean:206]: Oh, shoot. That is indeed an improvement. I guess I have to study this in some detail and figure out what this `inferInstance` does.

File: Mathlib/Analysis/Analytic/Order.lean (hunk 2 above)
Comment (kebekus) [reply Mathlib/Analysis/Analytic/Order.lean:232]: Same here. I have **never** seen that `+contextual`.

Comment (jcommelin) [reply Mathlib/Analysis/Analytic/Order.lean]: It (roughly) means that if you are simplifying `p -> q`, then `simp` will use the fact that `p` is true, while simplifying `q`.

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge

**Comment by kebekus** [comment]
@jcommelin Oops. A merge conflict. If you delegate, then I can solve the issue.
